US05068320
6-(Cyclopropylmethylamino)-9-[(2R,5S)-tetrahydro-5-(hydroxymethyl)-2-furyl]-9H-purine (0.369 g, 1.3 mmoles), 4-dimethylaminopyridine (10 mg, 0.1 mmoles, Aldrich Chemical Co., Madison, Wis.), and triethylamine (2.0 mL, 14 mmoles, Aldrich Chemical Co., Madison, Wis.) were dissolved in 50 mL acetonitrile. Propionyl chloride (450 μl, 5.2 mmoles, Aldrich Chemical Co., Madison, Wis.) was added and the reaction was stirred at room temperature for 2 hours. The reaction was quenched with methanol and solvents were evaporated in vacuo. Ethyl acetate was added to the residue and undissolved salts were removed by filtration. The filtrate was then applied to a silica gel column (4.8×13 cm) and eluted with methanol. After evaporation of the solvent, the product was eluted to a Chromatotron plate (4 mm silica gel) with a mixture of hexane:acetone (75:25). The product containing fractions were combined, concentrated, and further chromatographed on the Chromatotron (2 mm silica gel plate) with a mixture of chloroform:acetone (95:5). Product containing fractions were applied to preparative silica gel plates (20×20×0.2 cm) which were then developed in chloroform:acetone (85:15). Final purification was achieved by a third run on the Chromatotron (2 mm silica gel plate) with a mixture of hexane:acetone (80:20). Lyophilization afforded 0.178 g of 6-(cyclopropylmethylamino)-9-((2R,5S)-5-((propanoyloxy)methyl)-tetrahydro-2-furyl)-9H-purine as an oil (39% yield).

reactant | 6-(Cyclopropylmethylamino)-9-[(2R,5S)-tetrahydro-5-(hydroxymethyl)-2-furyl]-9H-purine | 1.3 mmoles, 0.369 g | C1(CC1)CNC1=C2N=CN(C2=NC=N1)[C@@H]1O[C@@H](CC1)CO | C14H19N5O2
reactant | triethylamine | 14 mmoles, 2.0 mL | C(C)N(CC)CC | C6H15N
reactant | Propionyl chloride | 5.2 mmoles, 450 μl | C(CC)(=O)Cl | C3H5ClO
catalyst | 4-dimethylaminopyridine | 0.1 mmoles, 10 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
product | 6-(cyclopropylmethylamino)-9-((2R,5S)-5-((propanoyloxy)methyl)-tetrahydro-2-furyl)-9H-purine | 0.178 g, 39% yield | C1(CC1)CNC1=C2N=CN(C2=NC=N1)[C@@H]1O[C@@H](CC1)COC(CC)=O | C17H23N5O3
